US04204867
150 g of ω-chloroacetophenone are dissolved at 50° C. in 1000 ml of ethanol, followed by the addition of a solution of 102 g of KSCN in 40 ml of water. After stirring for 10 minutes at 50° C., the ω-thiocyano acetophenone formed is precipitated with water.

reactant | ω-chloroacetophenone | 150 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | KSCN | 102 g | C(#N)[S-].[K+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | ω-thiocyano acetophenone | S(C#N)CC(=O)C1=CC=CC=C1 | C9H7NOS
